US04468517
4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride
A 1.9 g. portion of 4-chloromethyl-4-hydroxy-2-dimethylaminomethyl-2-thiazoline and 19 ml. of 1,2-dichloroethane were added to a 100 ml. flask, and the mixture was cooled while 1.53 g. of phosphorus oxychloride dissolved in 10 ml. of 1,2-dichloroethane was added dropwise. The mixture was stirred for 30 minutes at 23°, and then at 50° for 1 hour. It was cooled, and 25 ml. of water was added. The layers were separated, and both layers were examined by the tlc system described above in Example 1. No product or starting compound was in the organic layer. The aqueous layer contained all of the product and there was no indication of remaining starting material.

reactant | 4-chloromethyl-4-hydroxy-2-dimethylaminomethyl-2-thiazoline | ClCC1(N=C(SC1)CN(C)C)O | C7H13ClN2OS
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride | Cl.ClCC=1N=C(SC1)CN(C)C | InChI=1S/C7H11ClN2S.ClH/c1-10(2)4-7-9-6(3-8)5-11-7;/h5H,3-4H2,1-2H3;1H
